US07851473B2
N-1,2-Benzisoxazol-3-yl-4-(3-isopropyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
To a solution of 5-chloro-3-isopropyl-1,2,4-thiadiazole (90.3 mg, 0.555 mmol) and N-1,2-benzisoxazol-3-ylpiperazine-1-carboxamide trifluoroacetate (200 mg, 0.555 mmol) in N,N-dimethylformamide (2 ml) was added triethylamine (0.389 ml, 2.78 mmol) at room temperature, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured to water, and the precipitated solid was separated by filtration, which was recrystallized from a mixed solvent of ethyl acetate and tetrahydrofuran to give 42.0 mg (20.3%) of the desired product. mp 178-179° C.

reactant | 5-chloro-3-isopropyl-1,2,4-thiadiazole | 0.555 mmol, 90.3 mg | ClC1=NC(=NS1)C(C)C | C5H7ClN2S
reactant | N-1,2-benzisoxazol-3-ylpiperazine-1-carboxamide trifluoroacetate | 0.555 mmol, 200 mg | FC(C(=O)O)(F)F.O1N=C(C2=C1C=CC=C2)NC(=O)N2CCNCC2
reactant | triethylamine | 2.78 mmol, 0.389 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-1,2-Benzisoxazol-3-yl-4-(3-isopropyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 42.0 mg, 20.3% | O1N=C(C2=C1C=CC=C2)NC(=O)N2CCN(CC2)C2=NC(=NS2)C(C)C | C17H20N6O2S
